US04565869
A mixture of 18.7 g (0.385 mol) of 70 percent hydrogen peroxide and 400 ml of methylene chloride, stirred under argon and cooled to about 0°, is treated with 49.0 g (0.5 mol) of maleic acid anhydride. The mixture is stirred at 0° for 5 minutes and subsequently treated dropwise over a period of 15 minutes with a solution of 13.0 g (0.05 mol) of dimethyl 6-chloro-2,4-pyrimidinedicarbamate in 1500 ml of methylene chloride in such a manner that the temperature does not exceed 2°. The cooling bath is removed, the mixture is stirred for a further 15.5 hours, cooled to 3° and filtered. The white solid residue is subsequently washed with 400 ml of semi-saturated ice-cold sodium carbonate solution and then with 100 ml of ice-water. The material obtained is taken up in 150 ml of benzene and evaporated. This procedure is repeated once more and then the residue is dried at 60° under vacuum. There is obtained dimethyl 6-chloro-2,4-pyrimidinedicarbamate 3-oxide as a white solid of melting point 224°-225°.

reactant | hydrogen peroxide | 0.385 mol, 18.7 g | OO | H2O2
reactant | maleic acid anhydride | 0.5 mol, 49.0 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | dimethyl 6-chloro-2,4-pyrimidinedicarbamate | 0.05 mol, 13.0 g | ClC1=CC(=NC(=N1)NC(=O)OC)NC(=O)OC | C8H9ClN4O4
solvent | methylene chloride | 1500 ml | C(Cl)Cl | CH2Cl2
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | dimethyl 6-chloro-2,4-pyrimidinedicarbamate 3-oxide | ClC1=CC(=[N+](C(=N1)NC(=O)OC)[O-])NC(=O)OC | C8H9ClN4O5
